US06498251B1
1-Benzyl-4-(1-methyl-1-phenyl-ethyl)-piperazine (290 mg, 1.0 mmol) was dissolved in ethanol (3 ml), and the solution was mixed with 10% palladium-carbon (60 mg) and stirred at room temperature for 15 hours in an atmosphere of hydrogen. The catalyst was removed by filtering the reaction solution, and the solvent was removed by evaporation under a reduced pressure to obtain crude 4-(1-methyl-1-phenyl-ethyl)-piperazine. The thus obtained crude 4-(1-methyl-1-phenyl-ethyl)-piperazine, 2a-(4-bromobutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (310 mg, 1.0 mmol) and potassium carbonate (210 mg, 1.5 mmol) were stirred at room temperature for 14 hours in anhydrous N,N-dimethylformamide (3 ml). The reaction solution was mixed with ethyl acetate and washed with water and saturated brine, the solvent was removed by evaporation under a reduced pressure and then the thus obtained residue was dissolved in dichloromethane. The dichloromethane solution was washed with water and saturated brine and dried with anhydrous sodium sulfate. The solvent was removed by evaporation from the organic layer under a reduced pressure and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 33 mg (0.076 mmol, 7.7% in yield) of the title compound.

reactant | 1-Benzyl-4-(1-methyl-1-phenyl-ethyl)-piperazine | 1.0 mmol, 290 mg | C(C1=CC=CC=C1)N1CCN(CC1)C(C)(C1=CC=CC=C1)C | C20H26N2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 60 mg | [C].[Pd]
product | 4-(1-methyl-1-phenyl-ethyl)-piperazine | CC(C)(C1=CC=CC=C1)N1CCNCC1 | C13H20N2
